US09108999B2
Preparation of (S)-2-{[(2S,3S,4R,5R)-5-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-2,4-difluoro-3-hydroxy-4-methyl-tetrahydro-furan-2-ylmethoxy]-phenoxy-phosphorylamino}-propionic acid isopropyl ester
To a solution of chiral 1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-(hydroxymethyl)-3-methyltetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione (42 mg, 151 μmol) prepared in Preparation 6 in THF (8.00 ml) was added a THF solution (Aldrich, 1 M) of tert-butylmagnesium chloride (377 μl, 377 μmol) dropwise. The mixture was stirred at room temperature for 15 min. followed by the addition of THF solution (0.5 M) of (2S)-isopropyl 2-(chloro(phenoxy)phosphorylamino)propanoate (755 μl, 377 μmol). The reaction mixture was stirred at room temperature for 1 hr, followed by the addition of THF solution (Aldrich, 1 M) of tert-butylmagnesium chloride (189 μl, 189 μmol) and THF solution (0.5 M) of (2S)-isopropyl 2-(chloro(phenoxy)phosphorylamino)propanoate (378 μl, 189 μmol). The reaction mixture was then stirred at room temperature for 2 h. Methanol (2 mL) was added to quench the reaction, The mixture was purified by flash chromatography (silica gel, 0-15% MeOH in DCM) and dried in vacuo to give the title compound as a light-yellow solid (18 mg, 22%).

reactant | 1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-(hydroxymethyl)-3-methyltetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione | 151 μmol, 42 mg | F[C@]1([C@@H](O[C@@]([C@H]1O)(CO)F)N1C(NC(C=C1)=O)=O)C | C10H12F2N2O5
reactant | tert-butylmagnesium chloride | 377 μmol, 377 μl | C(C)(C)(C)[Mg]Cl
reactant | (2S)-isopropyl 2-(chloro(phenoxy)phosphorylamino)propanoate | 377 μmol, 755 μl | ClC1=C(OP(=O)=N[C@H](C(=O)OC(C)C)C)C=CC=C1 | C12H15ClNO4P
reactant | tert-butylmagnesium chloride | 189 μmol, 189 μl | C(C)(C)(C)[Mg]Cl
reactant | (2S)-isopropyl 2-(chloro(phenoxy)phosphorylamino)propanoate | 189 μmol, 378 μl | ClC1=C(OP(=O)=N[C@H](C(=O)OC(C)C)C)C=CC=C1 | C12H15ClNO4P
reactant | Methanol | 2 mL | CO | CH4O
solvent | THF | 8.00 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
product | (S)-2-{[(2S,3S,4R,5R)-5-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-2,4-difluoro-3-hydroxy-4-methyl-tetrahydro-furan-2-ylmethoxy]-phenoxy-phosphorylamino}-propionic acid isopropyl ester | 18 mg, 22% | C(C)(C)OC([C@H](C)N=P(=O)OC1=C(C=CC=C1)OC[C@]1(O[C@H]([C@]([C@@H]1O)(C)F)N1C(NC(C=C1)=O)=O)F)=O | C22H26F2N3O9P
